*****************************************************************
* NXP PSMN3R0-30MLC
*
* Polarity N-Channel
* Ratings 30V/3.150000E-003OHMS/70A
*
* Date Created Tue Jun 12 05:29:31 2012
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN3R0-30MLC DRAIN GATE SOURCE

LD DRAIN 5 1e-11
RLD2 DRAIN 5 0.0251327412287184
RLD1 5 4 3e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 2.3e-10
RLS2 SOURCE 8 0.578053048260522
RLS1 8 7 0.00022

RDS 7 4 30000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00211355671822674 TC=0.00541297709094917,5.36192056592008E-06
RBD 9 4 0.00114956982957568 TC=0.00541297709094917,5.36192056592008E-06
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 1.97774044154545e-09
RG 1 2 0.719873761817533

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	1068.88
+ -16	1068.31
+ -10	1066.56
+ -5	1060.33
+ -4	1054.33
+ -3	1034.07
+ -2	1603.3
+ -1	1178.36
+ -0.5	974.131
+ -0.2	856.91
+ -0.1	783.33
+ 0	764.0375
+ 0.1	744.73
+ 0.2	646.099
+ 0.5	542.076
+ 1	435.933
+ 2	338.184
+ 3	294.492
+ 4	267.245
+ 5	248.323
+ 6	234.559
+ 8	214.386
+ 10	200.948
+ 12	191.216
+ 15	180.221
+ 20	167.576



.MODEL MINT NMOS(Vto=2.27 Kp=3.290960e+002 Nfs=440000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=33 Ibv=2.500000E-004 Rs=1E-6 Is=1.48733270169958e-12
+ N=1 M=0.740000000000001 VJ=0.99 Fc=0.5 Cjo=2.26317e-09 Tt=2.267472e-08)

.ENDS

